### PR TITLE
[Merged by Bors] - feat: `Irrational √q` iff `¬IsSquare q` for `Nat`/`Int`/`Rat`

### PR DESCRIPTION
**Pull request by eric-wieser**
This enables proofs like
```lean
unseal Nat.sqrt.iter in
example : Irrational √24 := by decide
```

This also deprecates the old `irrational_sqrt_rat_iff` in favor of the new `irrational_sqrt_ratCast_iff`, which is better-named and -stated.

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Why.20is.20proof.20the.20root.202.20is.20irrational.20so.20long.3F/near/444315500) motivation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Should the lemmas be `simp`?

### CODE REVIEW

**Comment by urkud** [comment]
Should these be `simp` lemmas?

**Comment by eric-wieser** [comment]
> Should these be `simp` lemmas?

My default is to be cautious; do you feel strongly?

File: Mathlib/Data/Real/Irrational.lean [hunk 1]
```diff
@@ -29,6 +29,22 @@ def Irrational (x : ℝ) :=
   x ∉ Set.range ((↑) : ℚ → ℝ)
 #align irrational Irrational
 
+@[simp] theorem not_irrational_zero : ¬Irrational 0 := not_not_intro ⟨0, Rat.cast_zero⟩
+@[simp] theorem not_irrational_one : ¬Irrational 1 := not_not_intro ⟨1, Rat.cast_one⟩
+
+@[simp] theorem not_irrational_natCast (n : ℕ) : ¬Irrational n :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:35]: See `{Nat|Int|Rat}.not_irrational`.

File: Mathlib/Data/Real/Irrational.lean [hunk 2]
```diff
@@ -29,6 +29,22 @@ def Irrational (x : ℝ) :=
...
+  not_not_intro ⟨n, Rat.cast_natCast _⟩
+
+@[simp] theorem not_irrational_intCast (z : ℤ) : ¬Irrational z :=
+  not_not_intro ⟨z, Rat.cast_intCast _⟩
+
+@[simp] theorem not_irrational_ratCast (q : ℚ) : ¬Irrational q := not_not_intro ⟨q, rfl⟩
+
+@[simp] theorem not_irrational_ofNat (n : ℕ) [n.AtLeastTwo] :
+    ¬Irrational (no_index (OfNat.ofNat n)) :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:44]: Should the comment referring to the note on `no_index` be added here as well?

File: Mathlib/Data/Real/Irrational.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Irrational.lean]: Removed these for now; though I think the names should be changed / deprecated in a later PR

File: Mathlib/Data/Real/Irrational.lean [hunk 3]
```diff
@@ -93,45 +93,55 @@ theorem irrational_sqrt_of_multiplicity_odd (m : ℤ) (hm : 0 < m) (p : ℕ) [hp
...
+  irrational_sqrt_natCast_iff.mpr hp.not_square
 #align nat.prime.irrational_sqrt Nat.Prime.irrational_sqrt
 
 /-- **Irrationality of the Square Root of 2** -/
 theorem irrational_sqrt_two : Irrational (√2) := by
   simpa using Nat.prime_two.irrational_sqrt
 #align irrational_sqrt_two irrational_sqrt_two
 
+@[simp] theorem not_irrational_zero : ¬Irrational 0 := not_not_intro ⟨0, Rat.cast_zero⟩
+@[simp] theorem not_irrational_one : ¬Irrational 1 := not_not_intro ⟨1, Rat.cast_one⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:133]: [Irrational.ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/Irrational.html#Irrational.ne_zero), [Irrational.ne_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/Irrational.html#Irrational.ne_one) are very close, but I think the statements here do make sense as `simp` lemmas.

File: Mathlib/Data/Real/Irrational.lean [hunk 4]
```diff
@@ -93,45 +93,55 @@ theorem irrational_sqrt_of_multiplicity_odd (m : ℤ) (hm : 0 < m) (p : ℕ) [hp
...
+    refine ⟨|q'|, ?_⟩
+    rw [Rat.cast_pow, sqrt_sq_eq_abs, cast_abs]
+
+theorem irrational_sqrt_intCast_iff_of_nonneg {z : ℤ} (hz : 0 ≤ z) :
+    Irrational (√z) ↔ ¬IsSquare z := by
+  rw [← Rat.isSquare_intCast_iff, ← irrational_sqrt_ratCast_iff_of_nonneg (mod_cast hz),
+    Rat.cast_intCast]
+
+theorem irrational_sqrt_natCast_iff {n : ℕ} : Irrational (√n) ↔ ¬IsSquare n := by
+  rw [← Rat.isSquare_natCast_iff, ← irrational_sqrt_ratCast_iff_of_nonneg (mod_cast Nat.zero_le n),
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:115]:
```suggestion
  rw [← Rat.isSquare_natCast_iff, ← irrational_sqrt_ratCast_iff_of_nonneg n.cast_nonneg,
```

File: Mathlib/Data/Real/Irrational.lean [hunk 5]
```diff
@@ -93,45 +93,55 @@ theorem irrational_sqrt_of_multiplicity_odd (m : ℤ) (hm : 0 < m) (p : ℕ) [hp
...
-            rw [cast_zero]
-            exact (sqrt_eq_zero_of_nonpos (Rat.cast_nonpos.2 <| le_of_not_le H2)).symm⟩)
-        fun h => H2 h.2
+    Irrational (√q) ↔ Rat.sqrt q * Rat.sqrt q ≠ q ∧ 0 ≤ q := by
+  rw [ne_comm, ne_eq, @eq_comm _ q, ← Rat.exists_mul_self]
+  simp_rw [← @eq_comm _ q]
+  obtain hq | hq := le_or_lt 0 q
+  · rw [irrational_sqrt_ratCast_iff_of_nonneg hq]
+    exact (and_iff_left hq).symm
+  · rw [sqrt_eq_zero_of_nonpos]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:142]:
```suggestion
  rw [ne_eq, ← Rat.exists_mul_self]
  obtain hq | hq := le_or_lt 0 q
  · simp_rw [irrational_sqrt_ratCast_iff_of_nonneg hq, ← @eq_comm _ q]
    exact (and_iff_left hq).symm
  · rw [sqrt_eq_zero_of_nonpos (mod_cast hq.le)]
```

File: Mathlib/Data/Real/Irrational.lean [hunk 6]
```diff
@@ -93,45 +93,55 @@ theorem irrational_sqrt_of_multiplicity_odd (m : ℤ) (hm : 0 < m) (p : ℕ) [hp
...
 theorem Nat.Prime.irrational_sqrt {p : ℕ} (hp : Nat.Prime p) : Irrational (√p) :=
-  @irrational_sqrt_of_multiplicity_odd p (Int.natCast_pos.2 hp.pos) p ⟨hp⟩ <| by
-    simp [multiplicity.multiplicity_self
-      (mt isUnit_iff_dvd_one.1 (mt Int.natCast_dvd_natCast.1 hp.not_dvd_one))]
+  irrational_sqrt_natCast_iff.mpr hp.not_square
 #align nat.prime.irrational_sqrt Nat.Prime.irrational_sqrt
 
 /-- **Irrationality of the Square Root of 2** -/
 theorem irrational_sqrt_two : Irrational (√2) := by
   simpa using Nat.prime_two.irrational_sqrt
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:129]:
```suggestion
theorem irrational_sqrt_two : Irrational (√2) :=
  Nat.prime_two.irrational_sqrt
```

File: Mathlib/Data/Real/Irrational.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Irrational.lean]: This file could do with further cleanup to put these things nearer each other, but I don't want to scope creep too far.

File: Mathlib/Data/Real/Irrational.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Irrational.lean:140]: This one feels a bit out of scope; also, it's in some sense defeq abuse of `Nat.cast` on reals.

File: Mathlib/Data/Real/Irrational.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Irrational.lean]: Thanks! I ended up deprecating this lemma in favor of one spelt with `IsSquare`.

File: Mathlib/Data/Real/Irrational.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Data/Real/Irrational.lean:140]: OK.

File: Mathlib/Data/Real/Irrational.lean [hunk 7]
```diff
@@ -93,49 +93,78 @@ theorem irrational_sqrt_of_multiplicity_odd (m : ℤ) (hm : 0 < m) (p : ℕ) [hp
...
+  rw [irrational_sqrt_ratCast_iff, ne_eq, ← Rat.exists_mul_self]
+  simp only [eq_comm, IsSquare]
 #align irrational_sqrt_rat_iff irrational_sqrt_rat_iff
 
+/--
+This can be used as
+```lean
+unseal Nat.sqrt.iter in
+example : Irrational √24 := by decide
+```
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Real/Irrational.lean:155]: Maybe mention this in the module docstring, too? (In particular the `unseal` part, as this is not at all obvious...)

Comment (eric-wieser) [reply Mathlib/Data/Real/Irrational.lean:159]: Done.

**Comment by MichaelStollBayreuth** [comment]
LGTM!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
